US04051251
Methyl 2-acetamido-2-methyl-3-(3-nitro-4-acetamidophenyl)propionate is treated with hydrogen, formaldehyde, sodium acetate and Raney nickel following the procedure of part B of Example 4 to produce 2-acetamido-2-methyl-3(3-methylamino-4-aminophenyl)propionic acid. This product is hydrolyzed with 10% HCl and cyclized with phosgene by the procedure of part B of Example 4 to yield Example 8 title compound.

reactant | Methyl 2-acetamido-2-methyl-3-(3-nitro-4-acetamidophenyl)propionate | C(C)(=O)NC(C(=O)OC)(CC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])C | C15H19N3O6
reactant | hydrogen | [H][H] | H2
reactant | formaldehyde | C=O | CH2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
catalyst | Raney nickel | [Ni] | Ni
product | 2-acetamido-2-methyl-3(3-methylamino-4-aminophenyl)propionic acid | C(C)(=O)NC(C(=O)O)(CC1=CC(=C(C=C1)N)NC)C | C13H19N3O3
